US06576766B1
(g) [(4-{(S)-2-Amino-2-[(S)-1-(3-carbamoyl-4-cyclohexylmethoxy-phenyl)-ethylcarbamoyl]-ethyl}-phenyl)-(diethoxy-phosphoryl)-methyl]-phosphonic Acid Diethyl Ester
To [(4-{(S)-2-tert-Butoxycarbonylamino-2-[(S)-1-(3-carbamoyl-4-cyclohexylmethoxy-phenyl)-ethylcarbamoyl]-ethyl}-phenyl)-(diethoxy-phosphoryl)-methyl]-phosphonic acid diethyl ester (2.8 g, 3.5 mmol) in methylene chloride (20 mL) was added TFA (6 mL). The mixture was stirred for 20 min., evaporated to dryness, and dissolved in DMSO (30 mL). Purification by RP HPLC (CH3CN/H2O) and lyophylization yielded a white solid (1.9 g, 2.3 mmol, 66%). MS [M+H]+ 710.

reactant | [(4-{(S)-2-tert-Butoxycarbonylamino-2-[(S)-1-(3-carbamoyl-4-cyclohexylmethoxy-phenyl)-ethylcarbamoyl]-ethyl}-phenyl)-(diethoxy-phosphoryl)-methyl]-phosphonic acid diethyl ester | 3.5 mmol, 2.8 g | C(C)OP(OCC)(=O)C(P(=O)(OCC)OCC)C1=CC=C(C=C1)C[C@@H](C(N[C@@H](C)C1=CC(=C(C=C1)OCC1CCCCC1)C(N)=O)=O)NC(=O)OC(C)(C)C | C39H61N3O11P2
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | [(4-{(S)-2-Amino-2-[(S)-1-(3-carbamoyl-4-cyclohexylmethoxy-phenyl)-ethylcarbamoyl]-ethyl}-phenyl)-(diethoxy-phosphoryl)-methyl]-phosphonic Acid Diethyl Ester | 2.3 mmol, 1.9 g, 66% | C(C)OP(OCC)(=O)C(P(=O)(OCC)OCC)C1=CC=C(C=C1)C[C@@H](C(N[C@@H](C)C1=CC(=C(C=C1)OCC1CCCCC1)C(N)=O)=O)N | C34H53N3O9P2
